US07521457B2
b) tert.butyl (3-hydroxy-cyclobutyl)-carbamate
2.77 g (10 mmol) tert.butyl (3-benzyloxy-cyclobutyl)-carbamate are suspended in 100 ml of methanol and combined with 200 mg palladium hydroxide. The reaction mixture is stirred for 5 h at 45° C. and 45 bar H2 pressure. Then the catalyst is filtered off and the solvent is eliminated in vacuo. The residue is taken up in chloroform and washed three times with aqueous sodium hydrogen carbonate solution. The organic phase is dried with magnesium sulphate and the solvent is eliminated in vacuo.

reactant | tert.butyl (3-benzyloxy-cyclobutyl)-carbamate | 10 mmol, 2.77 g | C(C1=CC=CC=C1)OC1CC(C1)NC(OC(C)(C)C)=O | C16H23NO3
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium hydroxide | 200 mg | [OH-].[Pd+2].[OH-]
product | tert.butyl (3-hydroxy-cyclobutyl)-carbamate | OC1CC(C1)NC(OC(C)(C)C)=O | C9H17NO3
